US06518312B2
4-(N-iso-Butyryl-N-methylamino)-benzoic acid
4-Methylamino-benzoic acid methyl ester (0.41 g) were suspended in chloroform (20 ml). Isobutyryl chloride (0.79 g) in chloroform (10 ml) was added dropwise for 30 minutes and then dropwise triethylamine (1 ml) dissolved in chloroform (5 ml). The reaction mixture was stirred for 3 hours and the solvent was evaporated. 1M NaOII(aq) (40 ml) was added and the mixture stirred overnight. The solution was filtered to remove unsolved material and then acidified with 2M HCl(aq). Filtration and drying in vacuum yielded 0.48 g of the title product.

reactant | 4-Methylamino-benzoic acid methyl ester | 0.41 g | COC(C1=CC=C(C=C1)NC)=O | C9H11NO2
reactant | Isobutyryl chloride | 0.79 g | C(C(C)C)(=O)Cl | C4H7ClO
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(N-iso-Butyryl-N-methylamino)-benzoic acid | 0.48 g | C(C(C)C)(=O)N(C)C1=CC=C(C(=O)O)C=C1 | C12H15NO3
